  ADDER - 4 BIT ALL-NAND-GATE BINARY ADDER

*** SUBCIRCUIT DEFINITIONS
.SUBCKT NAND in1 in2 out
*   NODES:  INPUT(2), OUTPUT
a6 [in1 in2] out nand1
.ENDS NAND

.model nand1 d_nand(rise_delay = 0.7e-9 fall_delay = 0.7e-9
+ input_load = 0.5e-12)

.SUBCKT ONEBIT 1 2 3 4 5
*   NODES:  INPUT(2), CARRY-IN, OUTPUT, CARRY-OUT
X1   1  2  7   NAND
X2   1  7  8   NAND
X3   2  7  9   NAND
X4   8  9 10   NAND
X5   3 10 11   NAND
X6   3 11 12   NAND
X7  10 11 13   NAND
X8  12 13  4   NAND
X9  11  7  5   NAND
.ENDS ONEBIT

.SUBCKT TWOBIT 1 2 3 4 5 6 7 8
*   NODES:  INPUT - BIT0(2) / BIT1(2), OUTPUT - BIT0 / BIT1,
*           CARRY-IN, CARRY-OUT
X1   1  2  7  5 10   ONEBIT
X2   3  4 10  6  8   ONEBIT
.ENDS TWOBIT

.SUBCKT FOURBIT 1 2 3 4 5 6 7 8 9 10 11 12 13 14
*   NODES:  INPUT - BIT0(2) / BIT1(2) / BIT2(2) / BIT3(2),
*           OUTPUT - BIT0 / BIT1 / BIT2 / BIT3, CARRY-IN, CARRY-OUT
X1   1  2  3  4  9 10 13 16  TWOBIT
X2   5  6  7  8 11 12 16 14  TWOBIT
.ENDS FOURBIT


*** ALL INPUTS (analog)
VIN1A  a1  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS   20NS   50NS)
VIN1B  a2  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS   30NS  100NS)
VIN2A  a3  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS   50NS  200NS)
VIN2B  a4  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS   90NS  400NS)
VIN3A  a5  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS  170NS  800NS)
VIN3B  a6  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS  330NS 1600NS)
VIN4A  a7  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS  650NS 3200NS)
VIN4B  a8  0   DC 0 PULSE(0 3 0 0.5NS 0.5NS 1290NS 6400NS)

*** analog to digital 
abridge2 [a1 a2 a3 a4 a5 a6 a7 a8] [1 2 3 4 5 6 7 8] adc_buff
.model adc_buff adc_bridge(in_low = 1 in_high = 2)

*** digital 0
V0 a0 0 0
abridge0 [a0] [d0] adc_buff

*** DEFINE NOMINAL CIRCUIT
X1     1  2  3  4  5  6  7  8  s0 s1 s2 s3  d0 c3 FOURBIT

*.TRAN 500p 6400NS
* save inputs
*.save V(a1) V(a2) V(a3) V(a4) V(a5) V(a6) V(a7) V(a8) 

.control
esave 1 2 3 4 5 6 7 8 s0 s1 s2 s3 c3
TRAN 500p 6400NS
rusage
display
edisplay

* save data to input directory
cd $inputdir 
eprvcd 1 2 3 4 5 6 7 8 s0 s1 s2 s3 c3 > adder_x.vcd
* plotting the vcd file with GTKWave
if $oscompiled = 1 | $oscompiled = 8  ; MS Windows
  shell start gtkwave adder_x.vcd --script nggtk.tcl
else
  if $oscompiled = 7 ; macOS, manual tweaking required (mark, insert, Zoom Fit)
    shell open -a gtkwave adder_x.vcd
  else ; Linux and others
    shell gtkwave adder_x.vcd --script nggtk.tcl &
  end
end
.endc

.END
